US08389511B2
Ethyl (2R)-2-hydroxy-3-(4-methoxyphenyl)propanoate
Commercially available O-methyl-D-tyrosine (5.00 g) was dissolved in 1,4-dioxane (62.5 ml), and thereto were added successively dropwise an aqueous sulfuric acid solution (5.4 g/17.5 ml of water) and an aqueous sodium nitrite solution (6.3 g/15.0 ml of water) under ice-cooling, and the mixture was stirred at room temperature. Ten hours later, to the reaction solution was added a saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over sodium hydrogen sulfate, filtered, and concentrated under reduced pressure. The resultant was duly dried, and then, the obtained residue was dissolved in ethanol (50 ml), and further thereto was added conc. sulfuric acid (200 μL). The mixture was refluxed for 15 hours, and the reaction solution was added dropwise into ice-water (50 ml), and the mixture was extracted with ethyl acetate (50 ml). The organic layer was washed successively with a saturated aqueous sodium hydrogen carbonate solution and a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (the developing solvent: hexane/ethyl acetate=5/1) to give the title compound (3.40 g) as a colorless liquid.

reactant | O-methyl-D-tyrosine | 5.00 g | COC1=CC=C(C[C@@H](N)C(=O)O)C=C1 | C10H13NO3
reactant | sulfuric acid | 17.5 ml, 5.4 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 15.0 ml, 6.3 g | N(=O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 1,4-dioxane | 62.5 ml | O1CCOCC1 | C4H8O2
product | Ethyl (2R)-2-hydroxy-3-(4-methoxyphenyl)propanoate | 3.40 g | O[C@@H](C(=O)OCC)CC1=CC=C(C=C1)OC | C12H16O4
